US08633173B2
To a well stirred solution of 4-{4-[8-(4-Methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-ylamino]-pyrazol-1-yl}-piperidin-1-carboxylic acid tert-butyl ester (100 mg, 0.186 mmol) in dichloromethane (5 mL) was added trifluoroacetic acid (0.65 mL, 8.77 mmol) dropwise at room temperature. After 1 h, the reaction mixture was evaporated in vacuo and partitioned between dichloromethane and saturated aqueous sodium bicarbonate solution. The organic layer was separated and the aqueous layer was extracted twice with dichloromethane. The combined organic layers were washed with brine, dried over sodium sulfate, filtered, and evaporated. The crude product was crystallized from a mixture of dichloromethane, methanol, ether and hexane. [8-(4-Methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-(1-piperidin-4-yl-1H-pyrazol-4-yl)-amine was isolated as a greenish-yellow solid (58 mg, 71%). MP=Softened at 154-159° C. then melted at 211-213° C. 1H NMR (400 MHz, (D3C)2SO, δ, ppm): 9.37 (s, 1H), 8.79 (d, J=6.48 Hz, 1H), 8.42 (d, J=7.96 Hz, 2H), 8.06 (d, J=7.97 Hz, 2H), 7.94 (d, J=7.45 Hz, 1H), 7.83 (s, 1H), 7.49 (s, 1H), 7.12 (t, J=7.04 Hz, 1H), 4.14 (t, J=11.29 Hz, 1H), 3.29 (s, 3H), 3.035 (d, J=12.28 Hz, 2H), 2.58 (t, J=12.16 Hz, 2H), 1.935 (d, J=11.41 Hz), 1.68-182 (m, 2H). MS=438 (MH)+.

reactant | 4-{4-[8-(4-Methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-ylamino]-pyrazol-1-yl}-piperidin-1-carboxylic acid tert-butyl ester | 0.186 mmol, 100 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)N1N=CC(=C1)NC1=NN2C(C(=CC=C2)C2=CC=C(C=C2)S(=O)(=O)C)=N1 | C26H31N7O4S
reactant | trifluoroacetic acid | 8.77 mmol, 0.65 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | [8-(4-Methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-(1-piperidin-4-yl-1H-pyrazol-4-yl)-amine | CS(=O)(=O)C1=CC=C(C=C1)C=1C=2N(C=CC1)N=C(N2)NC=2C=NN(C2)C2CCNCC2 | C21H23N7O2S
